US06239151B1
A solution of 0.233 g of N-methyl-N-tert.-butoxycarbonyl-L-alanine in 10 ml of tetrahydrofuran was cooled to −10° C. and treated with 0.140 ml of N-ethylmorpholine and 0.143 ml of isobutyl chloroformate. The mixture was stirred for a further 10 minutes at −10° C. and then treated with 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide. The mixture was allowed to warm to 0° C. and stirring was continued for 45 minutes. The mixture was then diluted with ethyl acetate and washed in sequence with 5% aqueous citric acid, 5% aqueous sodium hydrogen carbonate and brine. Drying over magnesium sulphate and evaporation gave 0.608 g of (E)-2(R)-[1(S)-(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(N-methyl-N-tert.-butoxycarbonyl-L-alanyl)valerohydrazide in the form of a white solid.

reactant | N-methyl-N-tert.-butoxycarbonyl-L-alanine | 0.233 g | CN([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C9H17NO4
reactant | N-ethylmorpholine | 0.140 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 0.143 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2′-isobutyl-4-methyl-2′-(N-methyl-N-tert.-butoxycarbonyl-L-alanyl)valerohydrazide | C(C(C)C)N(NC(CCC(C)C)=O)C([C@@H](N(C(=O)OC(C)(C)C)C)C)=O | C19H37N3O4
